US07638521B2
1.04 g (7.5 mmol) of potassium carbonate and 0.695 g (3 mmol) of 4-chloro-2-(trifluoromethyl)quinoline are added to 0.526 g (3 mmol) of 3-methoxycarbonyl-1H-indole in 10 cm3 of dimethylformamide under an argon atmosphere. After stirring at a temperature in the region of 100° C. for 20 hours, the reaction mixture is cooled and diluted with 100 cm3 of ethyl acetate and 100 cm3 of water. The organic phase is separated off by settling and washed with twice 100 cm3 of water and 100 cm3 of saturated aqueous sodium chloride solution and then it is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa), resulting in an orange-coloured oil. This oil is triturated in 20 cm3 of isopropyl ether and the resulting precipitate is filtered off, giving 0.6 g of 3-methoxycarbonyl-1-(2-(trifluoromethyl)quinol-4-yl)-1H-indole in the form of a yellow powder. Mass spectrum (EI): m/e 370 (M+•), m/e 339.

reactant | potassium carbonate | 7.5 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2-(trifluoromethyl)quinoline | 3 mmol, 0.695 g | ClC1=CC(=NC2=CC=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 3-methoxycarbonyl-1H-indole | 3 mmol, 0.526 g | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 100 cm3 | O | H2O
product | 3-methoxycarbonyl-1-(2-(trifluoromethyl)quinol-4-yl)-1H-indole | 0.6 g | COC(=O)C1=CN(C2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)C(F)(F)F | C20H13F3N2O2
